US04994452
To suspension of 1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one (5.0 g) in dry tetrahydrofuran (110 ml) was added potassium tert-butoxide (2.65 g). The mixture was stirred for 20 mins, bromoethane (5.88 ml) was added, and the reaction mixture was refluxed for 6.5 hrs. The reaction mixture was concentrated, diluted with saturated potassium carbonate solution, and extracted with ethyl acetate. The organic extractions were dried over anhydrous magnesium sulfate, filtered, and concentrated. The residue was adhered to silica and flash chromatographed (20% ethyl acetate/hexane) to yield 4.53 g (82%) of 1-ethyl-1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one.

reactant | 1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one | 5.0 g | N1C(COC2=C3C1=C1CCCCC1=NC3=CC=C2)=O | C15H14N2O2
reactant | potassium tert-butoxide | 2.65 g | CC(C)([O-])C.[K+]
reactant | bromoethane | 5.88 ml | BrCC | C2H5Br
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
product | 1-ethyl-1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one | 4.53 g, 82% | C(C)N1C(COC2=C3C1=C1CCCCC1=NC3=CC=C2)=O | C17H18N2O2
